US07432260B2
3,4-Dimethyl-5-[2-(4-morpholin-4-yl-phenylamino)-pyrimidin-4-yl]-3H-thiazol-2-one [92].
Condensation between 5-(3-dimethylamino-acryloyl)-3,4-dimethyl-3H-thiazol-2-one and N-(4-morpholin-4-yl-phenyl)-guanidine nitrate afforded the title compound. Anal. RP-HPLC: tR=17.5 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>95%). 1H-NMR (DMSO-d6) δ: 2.48 (3H, s, CH3), 3.03 (4H, m, 2×morph-NCH2), 3.08 (3H, s, CH3), 3.72 (4H, m, 2×morph-OCH2), 6.85 (1H, d, J=5.2, pyrim-H), 6.89 (2H, d, J=9.2, 2×ArH), 7.57 (2H, d, J=9.2, 2×ArH), 8.36 (1H, d, J=5.2, pyrim-H) and 9.35 (1H, s, NH). MS (ESI+) m/z 384[M+H]+ (C19H21N5O2S requires 383.5).

reactant | 5-(3-dimethylamino-acryloyl)-3,4-dimethyl-3H-thiazol-2-one | CN(C=CC(=O)C1=C(N(C(S1)=O)C)C)C | C10H14N2O2S
reactant | N-(4-morpholin-4-yl-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].N1(CCOCC1)C1=CC=C(C=C1)NC(=N)N
product | 3,4-Dimethyl-5-[2-(4-morpholin-4-yl-phenylamino)-pyrimidin-4-yl]-3H-thiazol-2-one | CN1C(SC(=C1C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCOCC1)=O | C19H21N5O2S
